US08580785B2
c) Preparation of 5-Chloro-6-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-2-trifluoromethyl-quinoline-7-carboxylic acid methyl amide
9-Chloro-2-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-6-trifluoromethyl-3-oxa-1,5-diaza-anthracen-4-one is reacted with methylamine in THF analogously to the procedure given in step i) of example H-18. The title product is obtained as yellow crystals after flash column chromatography eluting with 1:1 hexane:ethyl acetate. m.p.: 235-237° C.

reactant | 9-Chloro-2-[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazol-3-yl]-6-trifluoromethyl-3-oxa-1,5-diaza-anthracen-4-one | ClC=1C2=CC=C(N=C2C=C2C(OC(=NC12)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl)=O)C(F)(F)F | C21H7Cl2F6N5O2
reactant | methylamine | CN | CH5N
solvent | THF | C1CCOC1 | C4H8O
product | 5-Chloro-6-{[2-(3-chloro-pyridin-2-yl)-5-trifluoromethyl-2H-pyrazole-3-carbonyl]-amino}-2-trifluoromethyl-quinoline-7-carboxylic acid methyl amide | CNC(=O)C1=C(C(=C2C=CC(=NC2=C1)C(F)(F)F)Cl)NC(=O)C=1N(N=C(C1)C(F)(F)F)C1=NC=CC=C1Cl | C22H12Cl2F6N6O2
